US06821965B1
3-(4-carboxybenzamido)-N-(3-dimethylaminophenyl)-4-methylbenzamide
Triethylamine (0.26 ml) was added to a stirred mixture of 4-methoxycarbonylbenzoyl chloride (0.221 g), 4-dimethylaminopyridine (0.01 g), 3-amino-N-(3-dimethylaminophenyl)-4-methylbenzamide (0.2 g) and methylene chloride (10 ml) and the resultant mixture was stirred at ambient temperature for 16 hours. The mixture was diluted with methylene chloride and washed with a saturated aqueous sodium bicarbonate solution and with a saturated aqueous sodium chloride solution. The organic solution was dried over magnesium sulphate and evaporated. The residue was triturated under isohexane. The resultant solid was isolated and dried under vacuum at 55° C. to give the required starting material as a solid (0.286 g); NMR Spectrum: (CDCl3) 2.4 (s, 3H), 2.98 (s, 6H), 3.98 (s, 3H), 6.54 (m, 1H), 6.92 (d, 1H), 7.2 (m, 3H), 7.35 (d, 1H), 7.71 (d, 1H), 7.92 (s, 1H), 7.98 (d, 2H), 8.18 (d, 2H), 8.35 (s, 1H).

reactant | Triethylamine | 0.26 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxycarbonylbenzoyl chloride | 0.221 g | COC(=O)C1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
reactant | 3-amino-N-(3-dimethylaminophenyl)-4-methylbenzamide | 0.2 g | NC=1C=C(C(=O)NC2=CC(=CC=C2)N(C)C)C=CC1C | C16H19N3O
catalyst | 4-dimethylaminopyridine | 0.01 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-carboxybenzamido)-N-(3-dimethylaminophenyl)-4-methylbenzamide | C(=O)(O)C1=CC=C(C(=O)NC=2C=C(C(=O)NC3=CC(=CC=C3)N(C)C)C=CC2C)C=C1 | C24H23N3O4
